US07534791B2
Synthesis of [2-(2-methyl-benzo[b]thiophen-3-ylsulfanyl)-phenyl]-methanol (Method 11.)
Lithium aluminum hydride (250 mg, 6.6 mmol) is added to a solution of 2-(2-methyl-benzo[b]thiophen-3-ylsulfanyl)-benzoic acid methyl ester (651 mg, 2.07 mmol) in 10 mL dry THF at 0° C. The reaction mixture is stirred for 16 hours at room temperature. The reaction is quenched with 0.5 mL water. The reaction mixture is stirred for ½ hour and 0.25 mL 15% NaOH (aq) is added. The reaction mixture is stirred for 1 hour, then 1 mL water is added and stirring is continued for another hour. The mixture is filtered, dried with MgSO4 and concentrated in vacuo to give the title compound, which is used without further purification.

reactant | Lithium aluminum hydride | 6.6 mmol, 250 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(2-methyl-benzo[b]thiophen-3-ylsulfanyl)-benzoic acid methyl ester | 2.07 mmol, 651 mg | COC(C1=C(C=CC=C1)SC=1C2=C(SC1C)C=CC=C2)=O | C17H14O2S2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [2-(2-methyl-benzo[b]thiophen-3-ylsulfanyl)-phenyl]-methanol | CC1=C(C2=C(S1)C=CC=C2)SC2=C(C=CC=C2)CO | C16H14OS2
